US08557983B2
4-Fluoro-2-(1-oxo-1,2,3,4-tetrahydro-isoquinolin-5-yloxy)-benzoic acid methyl ester
The title compound was prepared by substituting methyl 2,4-difluorobenzoate for ethyl 2,4-difluorobenzoate and 5-hydroxy-3,4-dihydro-2H-isoquinolin-1-one for 2-methyl-5-indolol in EXAMPLE 3A, except here the heating was at 130° C.

reactant | ethyl 2,4-difluorobenzoate | FC1=C(C(=O)OCC)C=CC(=C1)F | C9H8F2O2
reactant | 5-hydroxy-3,4-dihydro-2H-isoquinolin-1-one | OC1=C2CCNC(C2=CC=C1)=O | C9H9NO2
reactant | 2-methyl-5-indolol | CC=1NC2=CC=C(C=C2C1)O | C9H9NO
product | 4-Fluoro-2-(1-oxo-1,2,3,4-tetrahydro-isoquinolin-5-yloxy)-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)F)OC1=C2CCNC(C2=CC=C1)=O)=O | C17H14FNO4
